US04513005
(a) (1-Naphthyl)methyl phenyl sulphone
A solution of 1-(chloromethyl)-naphthalene (17.6 g) in dimethyl formamide (20 ml) was added to a stirred suspension of sodium benzenesulphinate (16.4 g) in dimethyl formamide (80 ml). After 20 hours at room temperature the mixture was diluted with water and the white precipitate filtered. Recrystallisation from ethyl acetate-petroleum ether 60°-80° C. gave the title product, m.p. 89° C.

reactant | 1-(chloromethyl)-naphthalene | 17.6 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | sodium benzenesulphinate | 16.4 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (1-Naphthyl)methyl phenyl sulphone | C1(=CC=CC=C1)S(=O)(=O)CC1=CC=CC2=CC=CC=C12 | C17H14O2S
